### ISSUE TITLE
Likely misformalization in `OEIS/110854.lean`

### ISSUE THREAD

**Issue by tadamcz** [google-deepmind/formal-conjectures#5226]
An AI agent produced a Lean proof of the negation of `OeisA110854.conjecture` for about
**$0.17** of API spend, which is unrealistically low for a research-open conjecture from the
OEIS set.

AI review of the accepted proof suggests the statement is misformalized, in the following way (AI-written):

> The defect is in the hypothesis characterizing the target set. The
> [A110854](https://oeis.org/A110854) comment asks whether the absolute values of
> a(n) = prime(2n+2) − prime(2n+1) − prime(2n) + prime(2n−1) cover
> [A004275](https://oeis.org/A004275), which is "1 together with the nonnegative even numbers".
> The file instead glosses A004275 as prime differences, both in its docstring ("A004275 is the
> set of all differences between two prime numbers") and in the statement:
>
> ```lean
> theorem conjecture :
>   ∀ d > 0, (∃ p1 p2 : ℕ, p1.Prime ∧ p2.Prime ∧ d = (p1 - p2 : ℤ).natAbs) →
>   ∃ n > 0, d = (a n).natAbs
> ```
>
> The prime-difference set contains every odd number of the form p − 2 (3, 5, 9, ...), none of
> which are in A004275. The accepted disproof takes d = 3 = |5 − 2| and shows |a(n)| ≠ 3 for all
> n by parity: a(1) = 7 − 5 − 3 + 2 = 1, and for n ≥ 2 the value is a signed sum of four odd
> primes, hence even. That parity fact is exactly why the intended covering question is about
> {1} ∪ evens in the first place, so the disproof refutes only the gloss, not the entry's
> question.
>
> Suggested fix: quantify over A004275 itself, i.e. `d = 1 ∨ Even d`, rather than over prime
> differences.

<details>
<summary>The accepted Lean proof</summary>

```lean
import FormalConjecturesUtil

/-!
# Conjectures associated with A110854

$a(n) = \mathrm{prime}(2n+2) - \mathrm{prime}(2n+1) - \mathrm{prime}(2n) + \mathrm{prime}(2n-1)$,
where $\mathrm{prime}(k)$ is the $k$-th prime number.

*References:*
- [A110854](https://oeis.org/A110854)
-/

namespace OeisA110854

open Nat

/--
The primary defining sequence `a`.
$a(n)$ is $\mathrm{prime}(2n+2) - \mathrm{prime}(2n+1) - \mathrm{prime}(2n) + \mathrm{prime}(2n-1)$.
-/
noncomputable def a (n : ℕ) : ℤ :=
  let p (k : ℕ) : ℤ := (Nat.nth Nat.Prime (k - 1)).cast
  if n = 0 then 0
  else p (2 * n + 2) - p (2 * n + 1) - p (2 * n) + p (2 * n - 1)

/--
Do the absolute values cover A004275?
A004275 is the set of all differences between two prime numbers.
The conjecture asks whether every possible difference between two prime numbers
occurs as the absolute value of some term $a(n)$.
-/
theorem conjecture.disproof :
  ¬ (∀ d > 0, (∃ p1 p2 : ℕ, p1.Prime ∧ p2.Prime ∧ d = (p1 - p2 : ℤ).natAbs) →
  ∃ n > 0, d = (a n).natAbs) := by
  intro h
  obtain ⟨n, hn, hd⟩ := h 3 (by norm_num)
    ⟨5, 2, by norm_num, by norm_num, by norm_num⟩
  by_cases hn1 : n = 1
  · subst n
    norm_num [a] at hd
  · have hodd : ∀ k : ℕ, 0 < k → Odd (Nat.nth Nat.Prime k : ℤ) := by
      intro k hk
      have hp := Nat.nth_mem_of_infinite Nat.infinite_setOf_prime k
      have hgt := Nat.nth_strictMono Nat.infinite_setOf_prime hk
      rw [Nat.nth_prime_zero_eq_two] at hgt
      exact_mod_cast hp.odd_of_ne_two (by omega)
    have heven : Even (a n) := by
      unfold a
      rw [if_neg (by omega)]
      exact (((hodd _ (by omega)).sub_odd (hodd _ (by omega))).sub_odd
        (hodd _ (by omega))).add_odd (hodd _ (by omega))
    have habs : Even (a n).natAbs := heven.natAbs
    rw [← hd] at habs
    norm_num at habs

end OeisA110854
```

</details>
